US04375476
(2,6-Dimethyl-3-nitrophenyl)methyl cis-3-(2-chloro-3,3,3-trifluoropropenyl)-2,2-dimethylcyclopropanecarboxylate (11.27 grams, 0.028 mole) was hydrogenated over Raney nickel. The product was chromatographed on an alumina column eluted with toluene to give (3-amino-2,6-dimethylphenyl)methyl cis-3-(2-chloro-3,3,3-trifluoropropenyl)2,2-dimethylcyclopropanecarboxylate (3.45 grams) as a liquid.

reactant | (2,6-Dimethyl-3-nitrophenyl)methyl cis-3-(2-chloro-3,3,3-trifluoropropenyl)-2,2-dimethylcyclopropanecarboxylate | 0.028 mole, 11.27 grams | ClC(=C[C@H]1C([C@H]1C(=O)OCC1=C(C(=CC=C1C)[N+](=O)[O-])C)(C)C)C(F)(F)F | C18H19ClF3NO4
catalyst | Raney nickel | [Ni] | Ni
product | (3-amino-2,6-dimethylphenyl)methyl cis-3-(2-chloro-3,3,3-trifluoropropenyl)2,2-dimethylcyclopropanecarboxylate | 3.45 grams | ClC(=C[C@H]1C([C@H]1C(=O)OCC1=C(C(=CC=C1C)N)C)(C)C)C(F)(F)F | C18H21ClF3NO2
